US04492693
To a stirred solution of sodium 3-methoxythiophenoxide in 150 ml of ethanol (prepared by reacting 14 g of 3-methoxythiophenol with 5.94 g of sodium methoxide) were added dropwise over ten minutes 27.7 g of ethyl 2-methoxyimino-3-oxo-4-bromobutyrate. The reaction mixture was stirred at 25° C. for sixteen hours, and then the solvent was removed by evaporation under reduced pressure to give an oil. The oil was dissolved in ethyl acetate and washed several times with water. The organic layer was dried and the solvent was removed by evaporation to afford 16.28 g of ethyl 2-methoxyimino-3-oxo-4-(3-methoxyphenylthio)butyrate. NMR (CDCl3): δ1.32 (t, 3H); δ3.79 (s, 3H); δ4.05 (s, 3H), δ4.34 (q, 2H); δ6.7-7.3 (m, 4H).

reactant | sodium 3-methoxythiophenoxide | COC=1C=C([S-])C=CC1.[Na+]
reactant | ethyl 2-methoxyimino-3-oxo-4-bromobutyrate | 27.7 g | CON=C(C(=O)OCC)C(CBr)=O | C7H10BrNO4
solvent | ethanol | 150 ml, 14 g | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-methoxyimino-3-oxo-4-(3-methoxyphenylthio)butyrate | 16.28 g | CON=C(C(=O)OCC)C(CSC1=CC(=CC=C1)OC)=O | C14H17NO5S
